US07858640B2
[8-chloro-3-(4-chlorobenzyl)-4-methoxy-2-methylquinolin-5-yloxy]acetic Acid
A mixture of [8-chloro-3-(4-chlorobenzyl)-4-methoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.059 g), methanol (2.0 mL), saturated aqueous lithium hydroxide solution (0.25 mL) and water (0.4 mL) was stirred at room temperature for 15 hours, The methanol was removed under reduced pressure and the pH of the residue adjusted to 1 by the addition of 1.0 M aqueous hydrochloric acid. Purification by preparative reverse-phase HPLC using a gradient over 30 minutes of acetonitrile in water (20% to 80% of organic modifier) gave title compound as a yellow solid, 0.060 g.

reactant | [8-chloro-3-(4-chlorobenzyl)-4-methoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.059 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)OC)=O | C21H19Cl2NO4
reactant | methanol | 2.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.25 mL | [OH-].[Li+]
solvent | water | 0.4 mL | O | H2O
product | [8-chloro-3-(4-chlorobenzyl)-4-methoxy-2-methylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)OC)OCC(=O)O | C20H17Cl2NO4
